US09328138B2
Step 1: 3-(prop-2-en-1-yl)quinoline-2,4-diol
To a degassed solution of 2,4-dihydroxyquinoline (10.0 g) in DMF (100 ml) was added triethylamine (9.51 ml), Pd(Ph3P)4 (2.151 g), followed by allyl acetate (7.43 ml). The mixture was allowed to stir at 60° C. under nitrogen for 18 hours. The reaction mixture was cooled to room temperature and quenched into water (600 mL). The pH was adjusted to 12 using a saturated sodium carbonate solution. Dichloromethane was added and the layers were cut. The aqueous layer was extracted with dichloromethane once more. Then, the aqueous layer was cooled with ice and the pH was slowly adjusted to 2.5 with 12N HCl to give a pink solid. The solids were filtered and washed with water to give 11.5 g (92% yield). LRMS (ES+) M/Z (M+H)+ 202.0.

reactant | 2,4-dihydroxyquinoline | 10.0 g | OC1=NC2=CC=CC=C2C(=C1)O | C9H7NO2
reactant | triethylamine | 9.51 ml | C(C)N(CC)CC | C6H15N
reactant | allyl acetate | 7.43 ml | C(C)(=O)OCC=C | C5H8O2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
catalyst | Pd(Ph3P)4 | 2.151 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(prop-2-en-1-yl)quinoline-2,4-diol | 92% yield | C(C=C)C=1C(=NC2=CC=CC=C2C1O)O | C12H11NO2
